US09062032B2
By using 1.2 g of tert-butyl 4-(4-ethoxy-4-oxobutanoyl)piperazine-1-carboxylate and 1.0 mL of 4.0 M hydrogen chloride/ethyl acetate solution, the reaction similar to Preparation Example 35 was performed, thereby obtaining 900 mg of ethyl 4-oxo-4-(piperazin-1-yl)butanoate hydrochloride.

reactant | tert-butyl 4-(4-ethoxy-4-oxobutanoyl)piperazine-1-carboxylate | 1.2 g | C(C)OC(CCC(=O)N1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H26N2O5
reactant | hydrogen chloride ethyl acetate | 4.0 M, 1.0 mL | Cl.C(C)(=O)OCC
product | ethyl 4-oxo-4-(piperazin-1-yl)butanoate hydrochloride | 900 mg | Cl.O=C(CCC(=O)OCC)N1CCNCC1 | InChI=1S/C10H18N2O3.ClH/c1-2-15-10(14)4-3-9(13)12-7-5-11-6-8-12;/h11H,2-8H2,1H3;1H
